US08357694B2
(S)—N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride salt
This was synthesized by using (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-methylbutan-1-amine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=135-145° C. 1H NMR 400 MHz (DMSO-d6) δ 10.52 (s, 2 H), 9.70 (s, 1 H), 8.33-8.28 (m, 2 H), 7.78-7.76 (m, 2 H), 7.51-7.42 (m, 4 H), 7.24-7.22 (d, 2 H), 7.11-7.09 (m, 1 H), 7.02-7.00 (m, 1 H), 4.46 (t, J=6.4 Hz, 1 H), 3.28-3.11 (m, 5 H), 3.00-2.96 (m, 3 H), 2.75 (d, 3 H), 1.67-1.61 (m, 2 H), 1.33-1.27 (m, 2 H), 0.89 (t, J=7.6 Hz, 3 H). LCMS m/e 531 (M+H).

reactant | (S)-4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | N-methylbutan-1-amine | CNCCCC | C5H13N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)—N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride salt | Cl.C(CCC)N(CCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3)C | InChI=1S/C31H32Cl2N4.ClH/c1-3-4-16-37(2)17-15-21-9-12-24(13-10-21)35-31-34-20-23-18-27(22-11-14-28(32)29(33)19-22)25-7-5-6-8-26(25)30(23)36-31;/h5-14,19-20,27H,3-4,15-18H2,1-2H3,(H,34,35,36);1H/t27-;/m0./s1
